US07807673B2
The title compound was synthesized from N-{3-[3-(2-chloro-4-pyrimidinyl)-6-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide (0.070 g) and 3-fluoroaniline (0.033 g) using the procedure described in Example 30, step E. The title compound was isolated as a white solid (0.048 g, 66% yield). 1H NMR (400 MHz, DMSO-d6) δ 3.84 (s, 2H), 6.54 (d, 1H, J=5.52 Hz), 6.70 (m, 1H), 6.94 (m, 2H), 7.24 (m, 2H), 7.34-7.45 (m, 3H), 7.60 (m, 1H), 7.68-7.77 (m, 2H), 7.87 (s, 1H), 8.29 (d, 1H, J=5.52 Hz), 8.51 (m, 1H), 9.16 (m, 1H), 9.81 (s, 1H), 10.32 (s, 1H). ES-LC/MS m/z=539 [M+H]+.

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)-6-fluoropyrazolo[1,5-a]pyridin-2-yl]phenyl}-2-(2-thienyl)acetamide | 0.070 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC(=C2)F)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C23H15ClFN5OS
reactant | 3-fluoroaniline | 0.033 g | FC=1C=C(N)C=CC1 | C6H6FN
product | N-[3-(6-fluoro-3-{2-[(3-fluorophenyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2-(2-thienyl)acetamide | FC=1C=CC=2N(C1)N=C(C2C2=NC(=NC=C2)NC2=CC(=CC=C2)F)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C29H20F2N6OS
